US08629137B2
1-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-2-methyl-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
65 mg (0.30 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one, 95 mg (0.30 mmol) 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.11 mL (0.60 mmol) DIPEA were stirred overnight in 3 mL DMF at RT. Then the reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and the organic solvent was evaporated down i. vac. The residue was neutralised with 4N aqueous sodium hydroxide solution, the precipitate formed was suction filtered, washed with water and dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.30 mmol, 65 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.30 mmol, 95 mg | ClC1=CC(=NC(=N1)C)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H12ClN3O3
reactant | DIPEA | 0.60 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-2-methyl-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC(=N2)C)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C26H25N7O4
